US04264723
Production of 1-(2,4,6-trichlorophenyl)-3-(2,4-dichloro-5-methoxyanilino)-4-dodecylthio-5-oxo-2-pyrazoline (Compound (12))
15.1 g of 1-(2,4,6-trichlorophenyl)-3-(2,4-dichloro-5-methoxyanilino)-5-pyrazolone was dissolved in 500 ml of 80% ethanol (ratio by volume of ethanol:water=4:1), and 2.5 g of potassium carbonate was added thereto. A solution prepared by dissolving 10.4 g of S-(n-dodecylthio)isothiourea hydrochloride in 100 ml of ethanol was added dropwise thereto over 10 minutes with stirring while heating on a steam bath, and the mixture was stirred for another 10 minutes. After cooled rapidly under a water stream, 300 ml of ethyl acetate was added thereto, and the mixture was washed twice with water. After drying the ethyl acetate layer with anhydrous sodium sulfate, sodium sulfate was removed and the solvent was removed by condensing under a reduced pressure. The residue was crystallized with acetonitrile. The resulting crystals were recrystallized with acetonitrile-ethyl acetate (ratio by volume: 10:1) to obtain 18 g of the coupler having a melting point of 100° to 102° C.

reactant | 1-(2,4,6-trichlorophenyl)-3-(2,4-dichloro-5-methoxyanilino)-5-pyrazolone | 15.1 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=CC1=O)NC1=C(C=C(C(=C1)OC)Cl)Cl | C16H10Cl5N3O2
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | S-(n-dodecylthio)isothiourea hydrochloride | 10.4 g | Cl.C(CCCCCCCCCCC)SSC(N)=N
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(2,4,6-trichlorophenyl)-3-(2,4-dichloro-5-methoxyanilino)-4-dodecylthio-5-oxo-2-pyrazoline | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)SCCCCCCCCCCCC)NC1=C(C=C(C(=C1)OC)Cl)Cl | C28H34Cl5N3O2S
